US04910201
Synthesis of 4-chloro-5-(4-chlorobenzyloxy)-2-(4-chloro-2-fluorophenyl)-3(2H)-pyridazinone (Compound No. 170)
In 30 m, of N,N-dimethylformamide were dissolved 1.0 g (3.4 m mol) of 2-(4-chloro-2-fluorophenyl)-4,5-dichloro-3(2H)-pyridazinone and 0.48 g (3.4 m mol) of p-chlorobenzyl alcohol, and thereto was added 0.22 g of powdery potassium hydroxide. Then, the procedures in Synthesis Example 2 were repeated to give 920 mg of the intended compound.

reactant | 2-(4-chloro-2-fluorophenyl)-4,5-dichloro-3(2H)-pyridazinone | 1.0 g | ClC1=CC(=C(C=C1)N1N=CC(=C(C1=O)Cl)Cl)F | C10H4Cl3FN2O
reactant | p-chlorobenzyl alcohol | 0.48 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium hydroxide | 0.22 g | [OH-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-5-(4-chlorobenzyloxy)-2-(4-chloro-2-fluorophenyl)-3(2H)-pyridazinone | 920 mg | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)F)=O | C17H10Cl3FN2O2
